US05154852
In a separate container, the oxalic acid was dissolved in four liters of deionized water. This oxalic acid solution was then added to the terbium/lanthanum/cerium/gadolinium nitric solution, both solutions being maintained at room temperature. A white lanthanum cerium terbium gadolinium oxalate coprecipitate having the formulation (La0.443 Ce0.42 Tb0.132 Gd0.005)2 (C2O4)3 was formed. The coprecipitate was then filtered, dried and heated at 800° C. for 2 hours to form a lanthanum cerium terbium gadolinium oxide having the formulation (La0.443 Ce0.42 Tb0.132 Gd0.005)2O3.

reactant | terbium lanthanum cerium gadolinium | [Tb].[La].[Ce].[Gd]
reactant | lanthanum cerium terbium gadolinium oxalate | C(C(=O)[O-])(=O)[O-].[Gd+3].[Tb+3].[Ce+3].[La+3].C(C(=O)[O-])(=O)[O-].C(C(=O)[O-])(=O)[O-].C(C(=O)[O-])(=O)[O-].C(C(=O)[O-])(=O)[O-].C(C(=O)[O-])(=O)[O-]
solvent | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | water | four liters | O | H2O
product | lanthanum cerium terbium gadolinium oxide | [O-2].[Gd+3].[Tb+3].[Ce+3].[La+3].[O-2].[O-2].[O-2].[O-2].[O-2] | InChI=1S/Ce.Gd.La.6O.Tb/q3*+3;6*-2;+3
